US08383644B2
(S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-3-hydroxy-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester
(S)-6,7-Dihydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester (30.0 g), 2-bromo-1-[4-(3,4-dichloro-benzyloxy)-phenyl]-ethanone (34.7 g), and sodium bicarbonate (7.8 g) were stirred together in 600 mL anhydrous DMF. While stirring at rt, DBU (6.95 mL) was added all at once and the mixture was stirred at rt for 18 hours. The reaction mixture was then poured into 1 L EtOAc and 500 mL water and the layers were separated. The organic layer was washed with water three times and brine once, then dried over sodium sulfate and concentrated to provide 57.8 g of orange foam which was used in the next step without further purification.

reactant | (S)-6,7-Dihydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester | 30.0 g | COC(=O)[C@H]1N(CC2=CC(=C(C=C2C1)O)O)C(=O)OC(C)(C)C | C16H21NO6
reactant | 2-bromo-1-[4-(3,4-dichloro-benzyloxy)-phenyl]-ethanone | 34.7 g | BrCC(=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C15H11BrCl2O2
reactant | sodium bicarbonate | 7.8 g | C([O-])(O)=O.[Na+]
reactant | DBU | 6.95 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
solvent | water | 500 mL | O | H2O
solvent | EtOAc | 1 L | CCOC(=O)C | C4H8O2
product | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-3-hydroxy-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester | 57.8 g | COC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@](O3)(O)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)C(=O)OC(C)(C)C | C31H31Cl2NO8
